US09278950B2
Step 2. 3-Amino-N-{4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxamide
A mixture of benzyl [2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate (0.006 g, 0.008 mmol) and 2 mL of 4.0 M HBr in AcOH was stirred at room temperature for 2 h. The mixture was concentrated under reduced pressure, and the residue was then treated with 4.5 mL of MeOH and 0.5 mL of NH4OH solution. The mixture was filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C26H32F3N8O [M+H]+: m/z=529.3. found: 529.3.

reactant | benzyl [2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate | 0.008 mmol, 0.006 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C(F)(F)F)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCN(CC1)C | C39H45F3N8O5
reactant | HBr | 4.0 M, 2 mL | Br | BrH
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-Amino-N-{4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)N | C26H31F3N8O
